US04880809
In a manner as that described in Example 62, 3,4-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid and 1-(3,4,5-trimethoxy-benzoyl)piperazine are subjected to amidation to give 1-(3,4-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine. This product is recrystallized from ethyl acetate to give colorless prisms, m.p. 133°-134° C.

reactant | 3,4-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | COC1=C(C2=C(C=C(CCC2)C(=O)O)C=C1)OC | C14H16O4
reactant | 1-(3,4,5-trimethoxy-benzoyl)piperazine | COC=1C=C(C(=O)N2CCNCC2)C=C(C1OC)OC | C14H20N2O4
product | 1-(3,4-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl)-4-(3,4,5-trimethoxybenzoyl)piperazine | COC1=C(C2=C(C=C(CCC2)C(=O)N2CCN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1)OC | C28H34N2O7
